US04983596
To a mixture of dimethylformamide (3.9 ml) and tetrahydrofuran (30 ml) was dropwise added phosphorus oxychloride (3.75 ml) at 0°-10° C. and the mixture was stirred at the same temperature for 30 minutes. To the mixture was added a solution of (2S,4R)-2-(carboxymethyloxymethyl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (14.50 g) in tetrahydrofuran (15 ml) at 0°-10° C. and the mixture was stirred at the same temperature for 30 minutes. The resulting mixture was dropwise added to a mixture of dimethylamine hydrochloride (50 g) and triethylamine (100 ml) in methanol (200 ml) at 0°-10° C. with stirring. The mixture was stirred at the same temperature for 2 hours. The insoluble material was filtered off and the filtrate was concentrated under reduced pressure to give a syrup. The syrup was dissolved in ethyl acetate (200 ml), washed with water (200 ml), 1N hydrochloric acid (200 ml), saturated aqueous sodium hydrogen carbonate (200 ml) and brine (200 ml), in turn, dried over magnesium sulfate, and concentrated under reduced pressure to give (2S,4R)-2-(dimethylcarbamoyl)methyloxymethyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (12.03 g).

reactant | dimethylformamide | 3.9 ml | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 3.75 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | (2S,4R)-2-(carboxymethyloxymethyl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 14.50 g | C(=O)(O)COC[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C16H20N2O10S
reactant | dimethylamine hydrochloride | 50 g | Cl.CNC
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | methanol | 200 ml | CO | CH4O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 100 ml | C(C)N(CC)CC | C6H15N
product | (2S,4R)-2-(dimethylcarbamoyl)methyloxymethyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 12.03 g | CN(C(=O)COC[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C | C18H25N3O9S
